US04774245
c. 1,2,3,4-tetrahydro-1-methyl-3-oxo-quinoxaline
5.2 g of o-fluoro-nitrobenzene, 3.2 g of sarcosine and 5.2 ml triethylamine was stirred in 25 ml DMSO at 70° C. for 4 days. The mixture was then evaporated in vacuo and the residue was partitioned between water and methylene chloride. The organic phase was evaporated in vacuo. The residue was dissolved in 100 ml 96% ethanol and was hydrogenated at normal pressure using 0.5 g Pd/C. After completion of hydrogen uptake, the mixture was filtered and evaporated in vacuo. The residue was washed with water with disodium carbonate, ether and water. Yield of title compound: 1.3 g M.p. 132° C.

reactant | o-fluoro-nitrobenzene | 5.2 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sarcosine | 3.2 g | N(C)CC(=O)O | C3H7NO2
reactant | triethylamine | 5.2 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 1,2,3,4-tetrahydro-1-methyl-3-oxo-quinoxaline | CN1CC(NC2=CC=CC=C12)=O | C9H10N2O
